US07351825B2
(1R*,2S*)-1-amino-2-azidomethyl-2-phenyl-cyclopropanecarboxylic acid t-butyl ester (step 5-4)
p-Toluenesulfonic acid monohydrate (5.2 g, 27 mmol) was added to a solution of the crude product (5.0 g) of (1R*,2S*)-2-azidomethyl-1-t-butoxycarbonylamino-2-phenyl-cyclopropanecarboxylic acid t-butyl ester, which was made from (1R*,2S*)-1-t-butoxycarbonylamino-2-hydroxymethyl-2-phenyl-cyclopropanecarboxylic acid t-butyl ester obtained in Preparation Example 2-6 by general method step 5-3, in acetonitrile (40 mL). The mixture was stirred at room temperature for 14 hours. After water (16 mL) was added, the mixture was further stirred for 7 hours and separated into layers by adding ethyl acetate (50 mL). The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution (30 mL), water (30 mL) and saturated aqueous sodium chloride solution (50 mL), and dried over sodium sulfate. The residue was filtrated and the solvent was evaporated to give a crude product of the title compound (2.8 g). The obtained product was used in the next step without further purification.

reactant | p-Toluenesulfonic acid monohydrate | 27 mmol, 5.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (1R*,2S*)-2-azidomethyl-1-t-butoxycarbonylamino-2-phenyl-cyclopropanecarboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)[C@@]1([C@@](C1)(C1=CC=CC=C1)CN=[N+]=[N-])NC(=O)OC(C)(C)C | C20H28N4O4
reactant | (1R*,2S*)-1-t-butoxycarbonylamino-2-hydroxymethyl-2-phenyl-cyclopropanecarboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)[C@@]1([C@](C1)(C1=CC=CC=C1)CO)NC(=O)OC(C)(C)C | C20H29NO5
reactant | water | 16 mL | O | H2O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | (1R*,2S*)-1-amino-2-azidomethyl-2-phenyl-cyclopropanecarboxylic acid t-butyl ester | 2.8 g | C(C)(C)(C)OC(=O)[C@@]1([C@@](C1)(C1=CC=CC=C1)CN=[N+]=[N-])N | C15H20N4O2
